US06395733B1
(3-Ethynyl-phenyl)-(5-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine
To 4-chloro-5-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine (150 mg, 0.75 mmol) in dry methanol (2 ml) was added m-aminophenyl acetylene (110 mg, 0.90 mmol). The solution was heated in a sealed pressure tube at 125° C. for 5.5 hours. The reaction mixture was cooled to ambient temperature, filtered with a small amount of methanol and dried in vacuo to afford the title compound as a tan powder (57 mg, 27%). TS-MS: 281 (MH+); anal. RP18-HPLC RT:4.74 min.

reactant | 4-chloro-5-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine | 0.75 mmol, 150 mg | ClC=1C2=C(N=CN1)NC=C2SC | C7H6ClN3S
reactant | m-aminophenyl acetylene | 0.90 mmol, 110 mg | NC=1C=C(C=CC1)C#C | C8H7N
solvent | methanol | 2 ml | CO | CH4O
product | (3-Ethynyl-phenyl)-(5-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine | 57 mg, 27% | C(#C)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC=C2SC | C15H12N4S
